US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 4 using 4-aminochromane-7-carboxylic acid methyl ester (1.4 g) and benzyloxycarbonyl chloride (2.0 ml), the objective 4-(benzyloxycarbonylamino)chromane-7-carboxylic acid methyl ester (1.9 g) was obtained as colorless crystals.

reactant | 4-aminochromane-7-carboxylic acid methyl ester | 1.4 g | COC(=O)C1=CC=C2C(CCOC2=C1)N | C11H13NO3
reactant | benzyloxycarbonyl chloride | 2.0 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | 4-(benzyloxycarbonylamino)chromane-7-carboxylic acid methyl ester | 1.9 g | COC(=O)C1=CC=C2C(CCOC2=C1)NC(=O)OCC1=CC=CC=C1 | C19H19NO5
